US06599917B1
c) 3-Ethynyl-2-(α-hydroxybenzyl)thiophene
131 mg of lithium aluminum hydride was added to a mixture of 821 mg of 2-methoxycarbonyl-3-(trimethylsilylethynyl)thiophene and 10 ml of tetrahydrofuran, followed by heating under reflux for 1.5 hours. After cooling as it was, 131 μl of water, 131 μl of an aqueous 1N sodium hydroxide solution and 393 μl of water were successively added thereto, followed by filtering through Celite. After removing the solvent, 5.25 g of manganese dioxide was added to a solution of 10 ml of dichloromethane containing the residue, followed by stirring at room temperature overnight. The mixture was filtered through Celite, and the solvent was removed. 3.5 ml of a cyclohexane-diethyl ether solution containing 1.8 mol of phenyl lithium was added dropwise to a mixture of the residue and 5 ml of diethyl ether at −78° C., followed by stirring at the same temperature for 20 minutes. Aqueous ammonium chloride was added to the reaction solution and the temperature of the system was raised to room temperature. Ethyl acetate was added thereto, and the organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography using 10% ethyl acetate/hexane, to give 85.7 mg of the target compound.

reactant | lithium aluminum hydride | 131 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methoxycarbonyl-3-(trimethylsilylethynyl)thiophene | 821 mg | COC(=O)C=1SC=CC1C#C[Si](C)(C)C | C11H14O2SSi
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | phenyl lithium | 1.8 mol | C1(=CC=CC=C1)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | cyclohexane diethyl ether | 3.5 ml | C1CCCCC1.C(C)OCC
solvent | water | 393 μl | O | H2O
solvent | water | 131 μl | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Ethynyl-2-(α-hydroxybenzyl)thiophene | 85.7 mg | C(#C)C1=C(SC=C1)C(C1=CC=CC=C1)O | C13H10OS
